US06174881B1
300 ml of 25% aqueous ammonia solution were added to a solution of 16 g of 7-nitro-5-phenyl-3H-1,4-benzodiazepine-2(1H)-thione (J. B. Hester, A. D. Rudzik & B. V. Kamdar, J.Med.Chem., 1971, 14, 1078-1081) in 850 ml of tetrahydrofuran. The solution was stirred at room temperature for 20 h. and then concentrated to about 50 ml in a vacuum. The crystalline precipitate was filtered off and recrystallized from dioxan. There were obtained 8.0 g of 2-amino-7-nitro-5-phenyl-3H-1,4-benzodiazepine which was used in this form for the next step.

reactant | ammonia | 300 ml | N | H3N
reactant | 7-nitro-5-phenyl-3H-1,4-benzodiazepine-2(1H)-thione | 16 g | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11N3O2S
solvent | tetrahydrofuran | 850 ml | O1CCCC1 | C4H8O
product | 2-amino-7-nitro-5-phenyl-3H-1,4-benzodiazepine | 8.0 g | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-] | C15H12N4O2
